US09120785B2
Isopropyl magnesium chloride lithium chloride (1.3 M in THF, 6.66 mL, 8.66 mmol) was added drop-wise to a solution of thiazole (0.675 mL, 9.44 mmol) in THF (5 mL) at 0° C. The reaction was stirred for 30 minutes and the ice bath was removed. Stirring was then continued for 10 minutes before the reaction was re-cooled in an acetone/dry ice bath, then a solution of methyl trans-4-propanoylcyclohexanecarboxylate (1.56 g, 7.87 mmol) in THF (15 mL) was transferred in via cannula. The reaction was stirred for 1 hour and the cooling bath was removed. Once warming was complete (˜1 hour) the reaction was diluted with saturated aqueous ammonium chloride (75 mL) and the resulting biphasic mixture was transferred to a separatory funnel. The organic phase was diluted with ethyl acetate (125 mL). The organic phase was separated, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-100% ethyl acetate/hexanes) to afford trans-methyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)propyl]cyclohexanecarboxylate. MS ESI calc'd. for C14H22NO3S [M+H]+ 284. found 284. 1H NMR (500 MHz, DMSO-d6) δ 7.70 (d, J=3.3 Hz, 1H), 7.49 (d, J=3.3 Hz, 1H), 3.53 (s, 3H), 2.07 (t, J=12.1 Hz, 1H), 1.95-1.63 (m, 4H), 1.44-1.06 (m, 6H), 1.01-0.81 (m, 2H), 0.65 (t, J=7.3 Hz, 3H).

reactant | Isopropyl magnesium chloride lithium chloride | 8.66 mmol, 1.3 M, 6.66 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | thiazole | 9.44 mmol, 0.675 mL | S1C=NC=C1 | C3H3NS
reactant | methyl trans-4-propanoylcyclohexanecarboxylate | 7.87 mmol, 1.56 g | C(CC)(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C11H18O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | trans-methyl 4-[1-hydroxy-1-(1,3-thiazol-2-yl)propyl]cyclohexanecarboxylate | OC(CC)(C=1SC=CN1)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H21NO3S
